US07696352B2
The mixture of 4-iodoacetophenone (1.00 g, 4.06 mmol) and glyoxalic acid monohydrate (0.45 g, 4.9 mmol) in 20 mL acetic acid was refluxed for 18 hrs before concentrated in vacuo. The dry residue was then stirred in 15 mL water to form a slurry material. To it was added carefully with ammonium hydroxide (30%) until pH 9 as indicated by pH paper. The pH was critical for this reaction. Methylhydrazine (0.43 mL) was added, and the reaction was sent to 100° C. bath for 3 hrs before the mixture was diluted with ethyl acetate. The organic phase was washed with brine, dried, concentrated in vacuo, and purified by flash column using 5% methanol in DCM isocratically to yield 6-(4-iodophenyl)-2-methylpyridazin-3(2H)-one (680 mg, 54%). MS found for C11H91N2O (M+H)+ 313.0.

reactant | 4-iodoacetophenone | 4.06 mmol, 1.00 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | glyoxalic acid monohydrate | 4.9 mmol, 0.45 g | O.C(C=O)(=O)O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | Methylhydrazine | 0.43 mL | CNN | CH6N2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-iodophenyl)-2-methylpyridazin-3(2H)-one | 680 mg, 54% | IC1=CC=C(C=C1)C=1C=CC(N(N1)C)=O | C11H9IN2O
